US05262433
To a solution of 500 mg (2.38 mM) of [5-(3-thienyl) tetrazol-1-yl] acetic acid and 220 mg (2.85 mM) of 1,3-propanediol in 5 ml of N,N-dimethylformamide was added 540 mg (2.62 mM) of dicyclohexylcarbodiimide at room temperature. After the mixture was stirred at room temperature for 30 min, a small amount of acetic acid was added to the mixture and then was stirred for 30 min. The mixture was poured into ice-water. The precipitated crystal was filtered off and washed with water. The filtrate was extracted with ethyl acetate. The organic phase was washed with water, dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The resultant residue was subjected to silica gel column chromatography (eluent: chloroform/ethyl alcohol=60/1) for separation and purification, to give 350 mg (yield 54.8%) of [5-(3-thienyl) tetrazol-1-yl] acetic acid 3-hydroxypropyl ester.

reactant | [5-(3-thienyl) tetrazol-1-yl] acetic acid | 2.38 mM, 500 mg | S1C=C(C=C1)C1=NN=NN1CC(=O)O | C7H6N4O2S
reactant | 1,3-propanediol | 2.85 mM, 220 mg | C(CCO)O | C3H8O2
reactant | dicyclohexylcarbodiimide | 2.62 mM, 540 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | [5-(3-thienyl) tetrazol-1-yl] acetic acid 3-hydroxypropyl ester | 350 mg, yield 54.8% | OCCCOC(CN1N=NN=C1C1=CSC=C1)=O | C10H12N4O3S
